US07985491B2
Under the atmosphere of argon, 3.2 g of 2-(naphthalen-1-yl)naphthalene-6-boronic acid and 2.8 g of 4-bromoiodobenzene were dissolved into 30 ml of toluene, and 0.23 g of tetrakis(triphenyl-phosphine)palladium was added to the obtained solution. After 28 ml of a 2 M aqueous solution of sodium carbonate was added, the resultant mixture was heated under the refluxing condition for 8.5 hours. After the obtained mixture was left standing for one night, the mixture was subjected to extraction with toluene. The extract was washed with a saturated aqueous solution of sodium chloride, and the solvent was removed using an evaporator. The residue was purified in accordance with the silica gel column chromatography (the developing solvent: toluene), and 3.6 g of 2-(4-bromophenyl)-6-(naphthalen-1-yl)naphthalene was obtained as a light yellow solid substance (the yield: 83%).

reactant | 2-(naphthalen-1-yl)naphthalene-6-boronic acid | 3.2 g | C1(=CC=CC2=CC=CC=C12)C1=CC2=CC=C(C=C2C=C1)B(O)O | C20H15BO2
reactant | 4-bromoiodobenzene | 2.8 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromophenyl)-6-(naphthalen-1-yl)naphthalene | 3.6 g, yield: 83% | BrC1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C1=CC=CC2=CC=CC=C12 | C26H17Br
